US07728031B2
6-Piperazin-1-yl-nicotinonitrile
6-Chloronicotinonitrile (500 mg, 3.61 mmole) and piperazine (930 mg, 10.8 mmole) were dissolved in 20 ml of acetonitrile and heated at 60° C. under N2 for 5 hours. The mixture was cooled to room temperature, diluted with water and extracted with dichloromethane (5×). The combined organics were dried over sodium sulfate, filtered, and concentrated to provide the title compound. 1H NMR (300 MHz, CDCl3) δ 8.40 (d, J=1.70 Hz, 1H) 7.60 (dd, J=8.81, 2.37 Hz, 1H) 6.59 (d, J=8.48 Hz, 1H) 3.57-3.75 (m, 4H) 2.91-3.05 (m, 4H); MS (M+H)+=189.

reactant | 6-Chloronicotinonitrile | 3.61 mmole, 500 mg | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | piperazine | 10.8 mmole, 930 mg | N1CCNCC1 | C4H10N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 6-Piperazin-1-yl-nicotinonitrile | N1(CCNCC1)C1=NC=C(C#N)C=C1 | C10H12N4
